US03946049
5-(p-Methylthiophenyl)-2-furamidoxime
A mixture of 13 g (0.060 mole) of 5-(p-methylthiophenyl)-2-furonitrile, 4.5 g (0.065 mole) of hydroxylamine hydrochloride, 4.2 g (0.065 mole) of KOH, and 160 ml of absolute ethanol was refluxed for 11/2 hours and then kept overnight at room temperature. The insoluble material was removed by filtration and discarded. The filtrate was added to ice/water and the resulting solid was dissolved in refluxing ethyl acetate, Darcoed, and filtered. The filtrate was heated to reflux and hexane was added to the cloud point. This mixture was cooled in an ice bath with the resulting solid being filtered and air dried to yield 10 g (67%). An analytical sample was prepared by drying a sample in the vacuum pistol at the temperature of refluxing CHCl3, m.p. 148°-150°.

reactant | 5-(p-methylthiophenyl)-2-furonitrile | 0.060 mole, 13 g | CSC1=CC=C(C=C1)C1=CC=C(O1)C#N | C12H9NOS
reactant | hydroxylamine hydrochloride | 0.065 mole, 4.5 g | Cl.NO
reactant | KOH | 0.065 mole, 4.2 g | [OH-].[K+]
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 5-(p-Methylthiophenyl)-2-furamidoxime | CSC1=CC=C(C=C1)C1=CC=C(O1)C(N)=NO | C12H12N2O2S
